* Actual sampler plus CDAC track-state small-signal noise probe.
.include /foss/pdks/gf180mcuD/libs.tech/ngspice/design.ngspice
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice mimcap_typical
.include /foss/designs/manual_goal/verification/A44_TT_BEH_NO_R6_MC200_FAST64_SIGNOFF_20260718/netlists/core/subckts/SWITCH_BOOT_SP_native_extracted.subckt.spice
.include /foss/designs/manual_goal/verification/A44_TT_BEH_NO_R6_MC200_FAST64_SIGNOFF_20260718/netlists/core/subckts/CDAC_native_extracted.subckt.spice
.temp 27
VVDD vdd 0 3.3
VREFP vrefp 0 2.5
VREFN vrefn 0 0.8
VCLKS clks 0 3.3
VDCTRL dctrl 0 3.3
VVIN src 0 DC 1.65 AC 1
RDRV src vin 105
CIN vin 0 1.7p
XCDAC vin clks vtop dctrl dctrl dctrl dctrl dctrl dctrl dctrl vrefp vdd 0 vrefn CDAC
CLOAD vtop 0 20f
.noise v(vtop) VVIN dec 40 1 10G
.control
set noaskquit
run
print inoise_total onoise_total
quit
.endc
.end
